US07432270B2
(S)-2-[(5Chloro-pyrimidin-2-ylamino)methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
(S)-2-Aminomethyl pyrrolidine-1-carboxylic acid tert-butyl ester (3.38 g), 2,5-dichloropyrimidine (2.50 g), potassium carbonate (4.67 g) and diisopropylethylamine (8.79 ml) were heated in xylene (60 ml) at 100° C. for 3.75 h. The cooled reaction mixture was filtered and the filtrate evaporated to a gum which was chromatographed on silica gel, eluting with ethyl acetate-pentane fractions, to afford the title compound as a pale yellow solid (2.55 g). Mass Spectrum (API+): Found 213 (MH+-tBoc). C14H2135ClN4O2 requires 312.

reactant | (S)-2-Aminomethyl pyrrolidine-1-carboxylic acid tert-butyl ester | 3.38 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN | C10H20N2O2
reactant | 2,5-dichloropyrimidine | 2.50 g | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 4.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylethylamine | 8.79 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (S)-2-[(5Chloro-pyrimidin-2-ylamino)methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.55 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNC1=NC=C(C=N1)Cl | C14H21ClN4O2
